US04293699
Ethoxyacetyl chloride (57 g.) was added slowly to a stirred solution of 4-methylthiosemicarbazide (53.5 g.) in dry pyridine (500 ml.) at 0°-5°. The mixture was allowed to attain room temperature and stirring was continued for 18 hours. Following concentration under reduced pressure the residue was treated with a solution of sodium (21.4 g.) in ethanol (500 ml.) and the mixture was heated under reflux for 24 hours. Following concentration and acidification with hydrochloric acid a solid was obtained. After partial concentration the solid was collected and recrystallised from ethyl acetate to give 3-ethoxymethyl-4-methyl-1,2,3-triazoline-5-thione (53 g.), m.p. 137°-138°. The thione (44 g.) was desulphurised by slow addition to a solution prepared from nitric acid (75 ml.) water (150 ml.) and sodium nitrite (1.5 g.) at 15°-20°. Following subsequent basification with sodium carbonate and concentration the residue was extracted with ethanol-ether 1:1 and distilled to afford 3-ethoxymethyl-4-methyl-1,2,4-triazole (30 g.) b.p. 154°-156°/0.05 mm. The above compound (15 g.) dissolved in 48% aqueous hydrobromic acid (150 ml.) was heated under reflux for 24 hours and concentrated to dryness to give 3-hydroxymethyl-4-methyl-1,2,4-triazole.

reactant | Ethoxyacetyl chloride | 57 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 4-methylthiosemicarbazide | 53.5 g | CNC(NN)=S | C2H7N3S
reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 3-ethoxymethyl-4-methyl-1,2,3-triazoline-5-thione | 53 g | C(C)OCN1N=NC(C1C)=S | C6H11N3OS
